data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_516286_1,[C@@:1]12([H:9])[C@@:5]([C:3]([H:14])([H:15])[H:16])([C@@:6]1([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])[N:7]([H:10])[H:11])[O:8]2>>[C:1]1([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])[C:6]([N:7]([H:10])[H:11])=[C:5]([C:3]([H:14])([H:15])[H:16])[O:8]1,49.75259249997819
MR_305500_1,[C:1]([O:6][C:5]([C:3](/[N:2]=[N:4]/[H:9])=[O:8])([N:7]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([O:6][N:2]([C:3](/[C:5](=[N:7]/[H:11])[H:12])=[O:8])[N:4]([H:9])[H:10])([H:13])([H:14])[H:15],30.180239999991727
MR_521482_0,[C:1](/[C:3]([O:6][C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])=[N:7]\[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3](=[O:6])[N:7]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])[H:8])([H:9])([H:10])[H:11],70.93448250000293
MR_379655_2,[C:1]([C:4](=[C:3]([O:6][H:10])[O:7][H:9])[H:13])(/[N:8]=[C:5](/[C:2]([H:15])([H:16])[H:17])[H:14])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:4]([C:3]([O:6][H:10])([O:7][H:9])[H:17])([H:13])[N:8]1[C:5](=[C:2]([H:15])[H:16])[H:14],72.08029749999923
MR_243392_0,[C:1]([C:2](=[O:6])[H:11])([C:3]([H:14])([H:15])[H:16])([N:4]([H:9])[H:10])[C:5]([O:7][H:8])([H:12])[H:13]>>[C:1]([C:2]([O:6][H:8])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([N:4]([H:9])[H:10])[C:5](=[O:7])[H:13],54.11936500001062
MR_144273_0,[C:1]([C:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]\[N:7]([H:8])[H:9])=[O:5])([H:10])([H:11])[H:12]>>[C:1](/[C:3](=[C:4]([C:2]([H:13])([H:14])[H:15])/[N:6]=[N:7]\[H:9])[O:5][H:8])([H:10])([H:11])[H:12],50.73776750002338
MR_94034_0,[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([N:5]([H:11])[H:12])[H:10])([C:3]([N:6]([H:13])[H:14])([H:15])[H:16])([O:7][H:8])[H:9]>>[C:1]([C:2]([C:3]([N:6]([H:13])[H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:10])([N:5]([H:11])[H:12])([O:7][H:8])[H:9],66.14979499999123
MR_76574_1,[C:1]([C:5](/[C:4]([N:8]([H:12])[H:13])=[N:9]/[N:7]([H:10])[H:11])=[C:6]([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16]>>[C:1]([C:5]1=[C:4]([N:8]([H:12])[H:13])[N:9]([N:7]([H:10])[H:11])[C:6]1([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16],38.38166500000895
MR_59459_0,[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[C:7](\[C:5]([H:20])([H:21])[H:22])[H:10])([O:8][C:2]([H:11])([H:12])[H:13])[H:9]>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:6](\[C:4]([H:17])([H:18])[H:19])[C:7]([C:5]([H:20])([H:21])[H:22])([O:8][C:2]([H:11])([H:12])[H:13])[H:10])[H:9],59.744275000005445
MR_560037_1,[C:1](/[C:3](=[C:2]([C:4](\[N:5]([H:12])[H:13])=[C:7](/[N:6]([H:14])[H:15])[H:16])/[O:8][H:10])[O:9][H:11])([H:17])([H:18])[H:19]>>[C:1]([C@@:3]1([O:9][H:11])[C:2]([O:8][H:10])=[C:4]([N:5]([H:12])[H:13])[C@@:7]1([N:6]([H:14])[H:15])[H:16])([H:17])([H:18])[H:19],39.05873750001163
MR_151445_0,[C:1](\[C:2]([C:4]([H:17])([H:18])[H:19])([C:6]([C:3]([H:14])([H:15])[H:16])([N:7]([H:10])[H:12])[H:13])[H:9])(=[N:5]/[H:11])[H:8]>>[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])(/[C:6](=[N:7]/[H:12])[H:13])[H:9])([C:3]([H:14])([H:15])[H:16])([N:5]([H:10])[H:11])[H:8],69.72027000000097
MR_618250_0,[C:1]([C:3](=[C:2](/[N:5]([H:12])[H:13])[O:7][H:9])/[C:6](=[N:8]\[N:4]([H:10])[H:11])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:3]1=[C:6]([H:14])[N:8]([N:4]([H:10])[H:11])[C@@:2]1([N:5]([H:12])[H:13])[O:7][H:9])([H:15])([H:16])[H:17],37.92547250001931
MR_318561_1,[C:1]([C:5]12[C:7]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[C:6]([C:2]([H:14])([H:15])[H:16])=[N:9][N:8]1[O:10]2)([H:11])([H:12])[H:13]>>[C:1]([C:5](/[N:8]=[N:9]\[C:6]([C:2]([H:14])([H:15])[H:16])=[C:7]([C:3]([H:17])([H:18])[H:19])[C:4]([H:20])([H:21])[H:22])=[O:10])([H:11])([H:12])[H:13],20.56380249998014
MR_696231_0,[C:1](/[N:5]=[N:8]/[H:11])(/[C:7]([C:6]([C:2]([C:4]([H:21])([H:22])[H:23])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])[O:10][H:12])=[N:9]/[H:13])([H:14])[H:15]>>[C:1]([N:5]([C:2]([C:4]([H:21])([H:22])[H:23])([H:16])[H:17])[N:8]([H:11])[H:12])(/[C:7]([C:6]([C:3]([H:18])([H:19])[H:20])=[O:10])=[N:9]/[H:13])([H:14])[H:15],57.1972525000156
MR_321913_1,[C:1]([C@@:2]([C:5]([H:17])([H:18])[H:19])([N:7]=[O:9])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:11])([H:15])[H:16])[N:6]=[O:8]>>[C:1]([C@:2]([C:5]([H:17])([H:18])[H:19])([N:6][O:8])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:11])([H:15])[H:16])[N:7][O:9],42.667489999996064
MR_529902_0,[C:1]([C@:7]1([H:15])[C:3]2([O:8][H:9])[N:2]([H:10])[C@@:5]2([H:13])[C@:6]1([N:4]([H:11])[H:12])[H:14])([H:16])([H:17])[H:18]>>[C:1](/[C:7](=[C:3](\[N:2](/[C:5](=[C:6](\[N:4]([H:11])[H:12])[H:14])[H:13])[H:10])[O:8][H:9])[H:15])([H:16])([H:17])[H:18],53.82883249999509
MR_497198_1,[C:1](/[C:4]([N:6]([H:11])[H:12])=[C:7](\[O:8][H:10])[H:13])(/[C:5]([C:3]([H:19])([H:20])[H:21])=[N:9]\[C:2]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:1](=[C:4]([N:6]([H:11])[H:12])[C:7](/[C:5]([C:3]([H:19])([H:20])[H:21])=[N:9]\[C:2]([H:16])([H:17])[H:18])([O:8][H:10])[H:13])([H:14])[H:15],71.8638099999751
